US05484772
B) EtOCO-D,L-Phe(αMe)-Pro-OBzl
To a stirring solution of EtOCO-D,L-Phe(αMe)-OH (10.3 g, 41 mmol), HOBT (5.5 g, 41 mmol), Pro-OBzl·HCl (9.9 g, 41 mmol) and N,N-diisopropylethylamine (15.9 g, 123 mmol) in dimethylformamide (200 mL) at 0° C., was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide·HCl (8.6 g, 45 mmol). After stirring for 16 h, the solvents were removed in vacuo and the residue was dissolved in ethyl acetate (500 mL). The organic phase was washed three times with 0.1N HCl, three times with saturated aqueous NaHCO3, and once with brine. The organic phase was then dried (Na2SO4), filtered and concentrated in vacuo. The residue was chromatographed over silica gel eluting with 1:1 ethyl acetate:hexanes and the product containing fractions (as judged by TLC) were combined and concentrated in vacuo to give 13.5 g (75% yield) of a white foam.

reactant | EtOCO-D,L-Phe(αMe)-OH | 41 mmol, 10.3 g | C(C)OC(=O)NC(CC1=CC=CC=C1)(C(=O)O)C | C13H17NO4
reactant | HOBT | 41 mmol, 5.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Pro-OBzl·HCl | 41 mmol, 9.9 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | N,N-diisopropylethylamine | 123 mmol, 15.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide·HCl | 45 mmol, 8.6 g | CN(CCCN=C=NCC)C.Cl
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | EtOCO-D,L-Phe(αMe)-Pro-OBzl | 13.5 g, 75% yield | C(C)OC(=O)NC(CC1=CC=CC=C1)(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C | C25H30N2O5
